US07479502B2
2-(2,2′-Dihydroxy-5-(1H-tetrazol-5-yl)-3′-aminomethylbiphenyl-3-yl]-1H-benzoimidazole-5-carboxamidine (0.2 g 0.2 mmol), prepared as in Example 7, was dissolved in methanol (10 mL). The solution was treated with triethylamine (0.2 mL, 1.5 mmol) and then potassium cyanate (0.09 g, 1.1 mmol aqueous solution, 0.5 mL) was added in 3 portions over 1 hour. 1N hydrochloric acid (5 mL) was added and the mixture was stirred at 50° C. over 3 days. Drying afforded crude product, which was subjected to purification by reverse phase HPLC to give 2-(2,2′-dihydroxy-5-(1H-tetrazol-5-yl)-3′-ureidomethyl-biphenyl-3-yl]-1H-benzoimidazole-5-carboxamidine (0.008 g) as a brown solid. LCMS calcd. 484.47, obsrvd. (M+H) 485.1, (M−H) 483.1.

reactant | 2-(2,2′-Dihydroxy-5-(1H-tetrazol-5-yl)-3′-aminomethylbiphenyl-3-yl]-1H-benzoimidazole-5-carboxamidine | 0.2 mmol, 0.2 g | OC1=C(C=C(C=C1C1=NC2=C(N1)C=CC(=C2)C(=N)N)C2=NN=NN2)C2=C(C(=CC=C2)CN)O | C22H19N9O2
reactant | triethylamine | 1.5 mmol, 0.2 mL | C(C)N(CC)CC | C6H15N
reactant | potassium cyanate | 1.1 mmol, 0.5 mL, 0.09 g | [O-]C#N.[K+]
reactant | hydrochloric acid | 1N, 5 mL | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 2-(2,2′-dihydroxy-5-(1H-tetrazol-5-yl)-3′-ureidomethyl-biphenyl-3-yl]-1H-benzoimidazole-5-carboxamidine | 0.008 g | OC1=C(C=C(C=C1C1=NC2=C(N1)C=CC(=C2)C(=N)N)C2=NN=NN2)C2=C(C(=CC=C2)CNC(=O)N)O | C23H20N10O3
